US06727264B1
2-METHYL-N-{3-[1-(7-OXO-7-PHENYLHEPTYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure K and Scheme B1 using 7-chloro-1-phenyl-1-heptanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 435.1 (M+H)+.

reactant | 7-chloro-1-phenyl-1-heptanone | ClCCCCCCC(=O)C1=CC=CC=C1 | C13H17ClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-{3-[1-(7-OXO-7-PHENYLHEPTYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCCCC(C1=CC=CC=C1)=O)C | C28H38N2O2
